US07429665B2
4-[1-Methyl-3-(4-triisopropylsilanyloxymethyl-phenyl)-1H-pyrazol-4-yl]-pyridine
Following the procedure for the preparation of 4-[3-(4-Benzyloxy-phenyl)-1-methyl-1H-pyrazol-4-yl]-pyridine but substituting 2-Pyridin-4-yl-1-(4-triisopropylsilanyloxymethyl-phenyl)-ethanone provided the title compound. MS: (M+H m/z=422.2).

reactant | 4-[3-(4-Benzyloxy-phenyl)-1-methyl-1H-pyrazol-4-yl]-pyridine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)C | C22H19N3O
reactant | 2-Pyridin-4-yl-1-(4-triisopropylsilanyloxymethyl-phenyl)-ethanone | N1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)CO[Si](C(C)C)(C(C)C)C(C)C | C23H33NO2Si
product | 4-[1-Methyl-3-(4-triisopropylsilanyloxymethyl-phenyl)-1H-pyrazol-4-yl]-pyridine | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(C=C1)CO[Si](C(C)C)(C(C)C)C(C)C | C25H35N3OSi
